US04472434
1-[4-(2,2-dichlorcyclopropyloxy)-phenyl]-3-(2-methylbenzoyl)-urea
6.54 g (0.03 Mol) of 4-(2,2-dichlorcyclopropyloxy)-aniline, dissolved in 50 ml dry tetrahydrofuran, are added dropwise with 4.84 g (0.03 Mol) of 2-methylbenzoyl-isocyanate, with stirring. The temperature increases mildly therewith. After cooling, the product is precipitated with pentane, withdrawn by suction, after-washed with pentane and dried.

reactant | 4-(2,2-dichlorcyclopropyloxy)-aniline | 0.03 Mol, 6.54 g | ClC1(C(C1)OC1=CC=C(N)C=C1)Cl | C9H9Cl2NO
reactant | 2-methylbenzoyl-isocyanate | 0.03 Mol, 4.84 g | CC1=C(C(=O)N=C=O)C=CC=C1 | C9H7NO2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-[4-(2,2-dichlorcyclopropyloxy)-phenyl]-3-(2-methylbenzoyl)-urea | ClC1(C(C1)OC1=CC=C(C=C1)NC(=O)NC(C1=C(C=CC=C1)C)=O)Cl | C18H16Cl2N2O3
